US08067408B2
2-Bromo-4-(bromomethyl)benzonitrile
A mixture of 2-bromo-4-methylbenzonitrile (13.3 g, 81.4 mmol), NBS (14.4 g, 84.4 mmol) and BPO (0.20 g) in CCl4 (150 mL) was heated for 4 h at reflux. The reaction mixture was cooled to room temperature and filtered. Then the solid was washed with CCl4 (20 mL×2) and the combined filtrate was washed successively with saturated sodium bicarbonate (50 mL), water (2×100 mL) and sodium thiosulfate (50 mL). The organic phase was dried over Na2SO4 and concentrated in vacuum afforded the titled compound, 2-bromo-4-(bromomethyl)benzonitrile (18.7 g, 100%).

reactant | 2-bromo-4-methylbenzonitrile | 81.4 mmol, 13.3 g | BrC1=C(C#N)C=CC(=C1)C | C8H6BrN
reactant | NBS | 84.4 mmol, 14.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 150 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-4-(bromomethyl)benzonitrile | 18.7 g, 100% | BrC1=C(C#N)C=CC(=C1)CBr | C8H5Br2N
